US05877174
To a solution of 0.28 g of tert-butyl [4-[4-(4-benzyloxycarbonylamidinophenylamino)-4-oxobutyl]-2,3-dioxopiperazin-1-yl]acetate in 2.8 ml of methylene chloride was added 1.4 ml of trifluoroacetic acid, and the resulting mixture was stirred at room temperature for 12 hours and then distilled under reduced pressure to remove the solvent. To the resulting residue were added 0.08 g of 5% palladium-carbon and 5.6 ml of N,N-dimethylformamide, followed by hydrogenation at ordinary temperature and atmospheric pressure for 3 hours. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. To the resulting concentrate were added 5 ml of water and 0.042 g of sodium hydrogencarbonate to obtain a homogeneous solution. This solution was purified by a reversed phase column chromatography (eluent: a 10% aqueous acetonitrile solution) to obtain 0.08 g of [4-[4-(4-amidinophenylamino)-4-oxobutyl]-2,3-dioxopiperazin-1yl]acetic acid as colorless crystals.

reactant | tert-butyl [4-[4-(4-benzyloxycarbonylamidinophenylamino)-4-oxobutyl]-2,3-dioxopiperazin-1-yl]acetate | 0.28 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)NC(CCCN1C(C(N(CC1)CC(=O)OC(C)(C)C)=O)=O)=O | C29H35N5O7
reactant | trifluoroacetic acid | 1.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2.8 ml | C(Cl)Cl | CH2Cl2
product | [4-[4-(4-amidinophenylamino)-4-oxobutyl]-2,3-dioxopiperazin-1yl]acetic acid | 0.08 g | C(N)(=N)C1=CC=C(C=C1)NC(CCCN1C(C(N(CC1)CC(=O)O)=O)=O)=O | C17H21N5O5
